US04118500
In the same manner as indicated in Example 5 there are electrolyzed 17.7 g of N-formylpyrrolidine and 57.2 g of methanol in the presence of 0.29 g of tetramethylammonium tetrafluoroborate as conducting salt. In this case, however, the current is switched off after the throughput of already 2.0 Faraday per mol of N-formylpyrrolidine. The calculated mean cell voltage is 28.8 volts. Work-up of the electrolysis solution gives 20.0 g of 1-formyl-2-methoxypyrrolidine (boiling point 39°-40° C./0.1 mbar; nD25 = 1.4700), which corresponds to a product yield of 86.6% and a current efficiency of 86.6%.

reactant | N-formylpyrrolidine | 17.7 g | C(=O)N1CCCC1 | C5H9NO
reactant | methanol | 57.2 g | CO | CH4O
catalyst | tetramethylammonium tetrafluoroborate | 0.29 g | F[B-](F)(F)F.C[N+](C)(C)C
product | 1-formyl-2-methoxypyrrolidine | 20.0 g | C(=O)N1C(CCC1)OC | C6H11NO2
